US06790854B2
4-Cyano-1-(ethoxycarbonyl)-4-(2-methylphenyl)piperidine (504 mg) was dissolved in ethanol (10 ml), added with 10% palladium/carbon (500 mg) and 5 N aqueous hydrochloric acid (0.74 ml) and stirred at room temperature for 15 hours under hydrogen gas pressure (30 psi) by using Paar apparatus. Insoluble solids were removed by filtration, and then ethanol was evaporated under reduced pressure. The residue was added with dichloromethane (50 ml) and adjusted to pH 9 with saturated aqueous sodium hydrogencarbonate. The organic layer was separated, and the aqueous layer was further extracted with dichloromethane (50 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain 4-aminomethyl-1-(ethoxycarbonyl)-4-(2-methylphenyl)piperidine.

reactant | 4-Cyano-1-(ethoxycarbonyl)-4-(2-methylphenyl)piperidine | 504 mg | C(#N)C1(CCN(CC1)C(=O)OCC)C1=C(C=CC=C1)C | C16H20N2O2
reactant | hydrochloric acid | 5 N, 0.74 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
product | 4-aminomethyl-1-(ethoxycarbonyl)-4-(2-methylphenyl)piperidine | NCC1(CCN(CC1)C(=O)OCC)C1=C(C=CC=C1)C | C16H24N2O2
